US20010047094A1
2-Benzothiazolecarboxaldehyde
To a stirred solution of benzothiazole (3.28 ml) in anydrous THF (40 ml), at −78°, under a nitrogen atmosphere, butyilithium (2.0 ml of a 1.6 M solution in hexane) was added dropwise. After 0.33 h, a solution of DMF (7 ml) in anydrous THF (20 ml) was added dropwise and the reaction mixture was allowed to rise to 0° over 1 h. The reaction was quenched by pouring the mixture into water (100 ml) and extracted with EE (2×150 ml). The organic layer was washed with brine, dried and the solvent evaporated under reduced pressure. The crude residue was purified by flash chromatography (eluting with CH-EA in gradient from 95:5 to 8:2), and crystallized from PE to give the title compound as a yellow solid (1.88 g). M.p. 76-77 0.

reactant | benzothiazole | 3.28 ml | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | butyilithium | C(CCC)[Li]
reactant | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Benzothiazolecarboxaldehyde | 1.88 g | S1C(=NC2=C1C=CC=C2)C=O | C8H5NOS
